data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1c(OC)cccc1OC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(OC)cccc1OC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(OC)cccc1OC)C(C)C", "products": "COc1cccc(OC)c1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "COc1cccc(OC)c1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "COc1cccc(OC)c1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "COc1cccc(OC)c1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cccc(OC)c1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "COc1cccc(OC)c1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "COc1cccc(OC)c1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(F)cccc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1c(F)ccc[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1c(F)ccc[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(F)cccc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(F)cccc21", "products": "CN1C(=O)C2(C=CCC2)c2c(F)cccc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(OC)c(C)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)c(C)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)c(C)c1)C(C)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1C"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1C"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1C.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1C"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)cc1C.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1ccccc1F)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1ccccc1F)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1ccccc1F)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1ccccc1F)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1ccccc1F)C2(C)C", "products": "C[C+]1C2(c3ccccc3F)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccccc3F)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccccc2F)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccccc2F)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccccc2F)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccccc2F)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccccc2F)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccccc2F)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3ccccc3F)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3ccccc3F)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3ccccc3F)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(Cl)ccc(Cl)c1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1c(Cl)ccc(Cl)[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1c(Cl)ccc(Cl)[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(Cl)ccc(Cl)c21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(Cl)ccc(Cl)c21", "products": "CN1C(=O)C2(C=CCC2)c2c(Cl)ccc(Cl)c21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(OCC)C2CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(OCC)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(OCC)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(OCC)CC1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(OCC)CC1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(OCC)CC1CC(C(=O)OC)C(=O)C2"}]}
